US04261855
C. 2-(p-Formyl-phenyl)-4-methyl-5-carboethoxy-2H-1,2,3-triazole
4.6 g of sodium are dissolved in 330 ml of absolute alcohol, with stirring and whilst passing a vigorous stream of nitrogen over the mixture. After cooling to 18° C., 23.2 g of 2-nitropropane are added dropwise in the course of 15 minutes and the reaction mixture is stirred for a further one hour at room temperature. 64.8 g of 2-(p-bromomethylphenyl)-4-methyl-5-carboethoxy-2H-1,2,3-triazole are then introduced, 330 ml of dimethylformamide are added and the reaction mixture is stirred for 22 hours at room temperature. The reaction mixture is then discharged into 2 liters of water and the product which has crystallised out is filtered off with suction, dried in vacuo at 50° to 60° C. and recrystallised from 1 liter of hexane with the aid of bleaching earth. This gives 25.8 g of 2-(p-formyl-phenyl)-4-methyl-5-carboethoxy-2H-1,2,3-triazole with a melting point of 97° to 99° C.

reactant | sodium | 4.6 g | [Na] | Na
reactant | 2-nitropropane | 23.2 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 2-(p-bromomethylphenyl)-4-methyl-5-carboethoxy-2H-1,2,3-triazole | 64.8 g | BrCC1=CC=C(C=C1)N1N=C(C(=N1)C)C(=O)OCC | C13H14BrN3O2
reactant | dimethylformamide | 330 ml | CN(C=O)C | C3H7NO
solvent | water | 2 liters | O | H2O
product | 2-(p-Formyl-phenyl)-4-methyl-5-carboethoxy-2H-1,2,3-triazole | C(=O)C1=CC=C(C=C1)N1N=C(C(=N1)C)C(=O)OCC | C13H13N3O3
